US08084449B2
A mixture of N-[(3-bromophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (600 mg, 0.967 mmol), (3-formylphenyl)boronic acid (188 mg, 1.257 mmol), Na2CO3 (307 mg, 2.90 mmol) and PdCl2(dppf) (70.7 mg, 0.097 mmol) was diluted in a mixture of 1,4-dioxane (9 mL) and water (3 mL) in a 20 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and it was then heated in a Biotage microwave at normal absorption for 30 min at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and saturated NaHCO3. The organic layer was concentrated under vacuum to obtain the crude residue. It was purified with Gilson HPLC (with 0.1% TFA in the solvent) eluting with 15 to 80% CH3CN in water in a flow rate of 20 mL/min. The product fractions were dried under EZ2 Genevac and then combined to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide as a solid (278 mg, 44.5%). LC-MS m/z 646.1 (M+H)+, 0.91 min (ret time).

reactant | N-[(3-bromophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.967 mmol, 600 mg | BrC=1C=C(C=CC1)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C30H34BrN7O3
reactant | (3-formylphenyl)boronic acid | 1.257 mmol, 188 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | Na2CO3 | 2.90 mmol, 307 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | PdCl2(dppf) | 0.097 mmol, 70.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 278 mg, 44.5% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)CC | C37H39N7O4
